US04178449
7-Phenylpyrazolo[1,5-a]pyrimidine-3-carbonitrile
A reaction mixture comprising 4.32 g. of 3-aminopyrazole-4-carbonitrile, 7.0 g. of 3-dimethylaminoacrylophenone and 25 ml. of glacial acetic acid is refluxed for 7 hours. The mixture is evaporated and the residue is treated as described in Example 1, giving the desired product, m.p. 230°-232° C.

reactant | 3-aminopyrazole-4-carbonitrile | NC1=NNC=C1C#N | C4H4N4
reactant | 3-dimethylaminoacrylophenone | CN(C=CC(=O)C1=CC=CC=C1)C | C11H13NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Phenylpyrazolo[1,5-a]pyrimidine-3-carbonitrile | C1(=CC=CC=C1)C1=CC=NC=2N1N=CC2C#N | C13H8N4
